US08217043B2
d) 4-(4-Fluoro-benzyl)-1-hydroxy-3-oxo-6-trifluoromethyl-3,4-dihydro-4,4a-diaza-fluorene-2-carboxylic acid methyl ester
A mixture of 1-[(2-ethoxycarbonyl-acetyl)-(4-fluoro-benzyl)-amino]-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester (160 mg, 0.32 mmol) in 0.5 N NaOMe/MeOH solution (2.5 mL, 1.25 mmol) was refluxed overnight. After cooled, the mixture was concentrated, and the residue was dissolved in water (80 mL), acidified to pH=3-4 using 1 N HCl solution, extracted with EtOAc (2 times). Combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. Crude product was purified by silica gel chromatography (50%-100% EtOAc/DCM then 2%-10% MeOH/DCM) to provide the title compound 31 mg. ESI (m/z): 435.14 (M+H)+.

reactant | 1-[(2-ethoxycarbonyl-acetyl)-(4-fluoro-benzyl)-amino]-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester | 0.32 mmol, 160 mg | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1)C(F)(F)F)N(CC1=CC=C(C=C1)F)C(CC(=O)OCC)=O | C24H22F4N2O5
reactant | NaOMe MeOH | 1.25 mmol, 0.5 N, 2.5 mL | C[O-].[Na+].CO
product | 4-(4-Fluoro-benzyl)-1-hydroxy-3-oxo-6-trifluoromethyl-3,4-dihydro-4,4a-diaza-fluorene-2-carboxylic acid methyl ester | 31 mg | COC(=O)C1=C(C2=CC3=CC=C(C=C3N2N(C1=O)CC1=CC=C(C=C1)F)C(F)(F)F)O | C21H14F4N2O4
